US04639442
Step 6. 2-Methyl-5-methoxy-1-(piperidinylcarbonyl)benzocyclobutene
Oxalyl chloride (40.9 ml) is added dropwise to a stirred solution of the benzocyclobutene carboxylic acid obtained in the previous step (90.2 g) dissolved in a mixture of DMF (3 ml) and methylene chloride (450 ml). The reaction mixture is stirred at RT overnight and added dropwise to an ice cold solution of piperidine (185 ml) in methylene chloride (450 ml) over a 90-minute period. The reaction mixture is allowed to stir at RT for five hours, washed with aqueous 5% hydrochloric acid, dried, filtered and evaporated affording the desired product as an oil, which is used in the next step without further purification.

reactant | Oxalyl chloride | 40.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzocyclobutene carboxylic acid | C1(=CC2=C1C=CC=C2)C(=O)O | C9H6O2
reactant | piperidine | 185 ml | N1CCCCC1 | C5H11N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-5-methoxy-1-(piperidinylcarbonyl)benzocyclobutene | CC1C(C=2C1=CC=C(C2)OC)C(=O)N2CCCCC2 | C16H21NO2
